US04670421
N-[4-[14-(Trimethylsilyl)tetradecylamino]benzoyl)glycine
A mixture of 12.5 g. of ethyl 4-[14-(trimethylsilyl)tetradecylamino]hippurate, 55 ml. of 1N sodium hydroxide solutions and 50 ml. of ethanol is stirred at ambient temperature for 2 hours and then partially evaporated. The aqueous solution is washed with diethyl ether, acidified with 6N hydrochloric acid, and filtered. The solid is dried in vacuo and recrystallized to yield the product as a white solid.

reactant | ethyl 4-[14-(trimethylsilyl)tetradecylamino]hippurate | C[Si](CCCCCCCCCCCCCCNC1=CC=C(C(NCC(=O)OCC)=O)C=C1)(C)C | C28H50N2O3Si
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | N-[4-[14-(Trimethylsilyl)tetradecylamino]benzoyl)glycine | C[Si](CCCCCCCCCCCCCCNC1=CC=C(C(=O)NCC(=O)O)C=C1)(C)C | C26H46N2O3Si
